US04329347
6-[4-(3,5-Dibromo-4-amino-phenylmercapto)-butoxy]-carbostyril
Prepared analogous to Example 122 from 6-(4-bromobutoxy)-carbostyril (m.p. 198°-199° C.) and 3,5-dibromo-4-amino-thiophenol.

reactant | 6-(4-bromobutoxy)-carbostyril | BrCCCCOC=1C=C2C=CC(NC2=CC1)=O | C13H14BrNO2
reactant | 3,5-dibromo-4-amino-thiophenol | BrC=1C=C(C=C(C1N)Br)S | C6H5Br2NS
product | 6-[4-(3,5-Dibromo-4-amino-phenylmercapto)-butoxy]-carbostyril | BrC=1C=C(C=C(C1N)Br)SCCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H18Br2N2O2S
